US07547788B2
4-(4-Chloro-3-trifluoromethyl-phenoxy)-2,2,6,6-tetramethyl-piperidine hydrochloric acid salt
A mixture of 4-(4-chloro-3-trifluoromethyl-phenoxy)-1,2,2,6,6-pentamethyl-piperidine (1.28 g, 4.26 mmol), toluene (50 ml) and diethylazodicarboxylate (2.0 ml, 12.8 mmol) was heated at 110° C. for 8 h. Hydrochloric acid (20 ml, 2 M) was added at reflux for 2 h. The mixture was cooled on ice. The hydrochloric acid salt precipitated and was isolated by filtration. Yield 1.2 g (87%). Mp 222° C.

reactant | 4-(4-chloro-3-trifluoromethyl-phenoxy)-1,2,2,6,6-pentamethyl-piperidine | 4.26 mmol, 1.28 g | ClC1=C(C=C(OC2CC(N(C(C2)(C)C)C)(C)C)C=C1)C(F)(F)F | C17H23ClF3NO
reactant | diethylazodicarboxylate | 12.8 mmol, 2.0 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | Hydrochloric acid | 2 M, 20 ml | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Chloro-3-trifluoromethyl-phenoxy)-2,2,6,6-tetramethyl-piperidine hydrochloric acid salt | Cl.ClC1=C(C=C(OC2CC(NC(C2)(C)C)(C)C)C=C1)C(F)(F)F | InChI=1S/C16H21ClF3NO.ClH/c1-14(2)8-11(9-15(3,4)21-14)22-10-5-6-13(17)12(7-10)16(18,19)20;/h5-7,11,21H,8-9H2,1-4H3;1H
